US07230001B1
1-(Diphenylmethyl)-3-[(2-nitrophenylmethyl)amino]-azetidine
A mixture of 45.0 g (0.189 mol) of 3-amino-1-(diphenylmethyl)-azetidine, 28.7 g (0.190 mol) of 2-nitrobenzaldehyde and 280 ml of methanol was stirred for 3 hours at ambient temperature. Then 7.4 g (0.196 mol) of sodium borohydride were added followed, after a further 2 hours, by another 6.0 g of sodium borohydride and 300 ml of methanol and after a further 16 hours by 4.0 g of sodium borohydride, and the mixture was stirred for a further 4 hours at ambient temperature. The mixture was concentrated by evaporation in vacuo and the residue was treated with 200 ml dichloromethane and 200 ml of water. It was filtered, the methylene chloride phase was dried over sodium sulphate and freed from solvent. The residue was purified by chromatography on silica gel (30–60 μm) using dichloromethane/EE/MeOH/cyclohexane/conc. ammonia (59/25/7.5/7.5/1 v/v/v/v/v) as eluant, then on silica gel using dichloromethane/EE (1/1 v/v) as eluant. After the appropriate fractions had been worked up, 20.0 g (28% of theoretical) of the desired compound were obtained in the form of a pale yellow oil.

reactant | 3-amino-1-(diphenylmethyl)-azetidine | 0.189 mol, 45.0 g | NC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H18N2
reactant | 2-nitrobenzaldehyde | 0.190 mol, 28.7 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | sodium borohydride | 0.196 mol, 7.4 g | [BH4-].[Na+]
reactant | sodium borohydride | 6.0 g | [BH4-].[Na+]
reactant | sodium borohydride | 4.0 g | [BH4-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 280 ml | CO | CH4O
product | 1-(Diphenylmethyl)-3-[(2-nitrophenylmethyl)amino]-azetidine | C1(=CC=CC=C1)C(N1CC(C1)NCC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C23H23N3O2
